US09029371B2
A mixture of 4-morpholin-2-yl-phenol (3.95 g; 22.0 mmol), and tert-butyl acrylate (9.60 mL; 66.1 mmol) in CH3CN (100 mL) was heated under reflux overnight. After cooling to RT, the mixture was concentrated and purified by column chromatography (SiO2, Et2O) to afford 3-[2-(4-hydroxy-phenyl)-morpholin-4-yl]-propionic acid tert-butyl ester (5.22 g).

reactant | 4-morpholin-2-yl-phenol | 22.0 mmol, 3.95 g | N1CC(OCC1)C1=CC=C(C=C1)O | C10H13NO2
reactant | tert-butyl acrylate | 66.1 mmol, 9.60 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | 3-[2-(4-hydroxy-phenyl)-morpholin-4-yl]-propionic acid tert-butyl ester | 5.22 g | C(C)(C)(C)OC(CCN1CC(OCC1)C1=CC=C(C=C1)O)=O | C17H25NO4
